US04353904
VIII. 2,3-Epoxypropoxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)-benzene
1.6 g of sodium hydride, in the form of a 55% strength suspension in paraffin oil (0.036 mole) are introduced into 70 ml of anhydrous tetrahydrofuran and 6.3 g (0.036 mole) of ortho-(5-methyl-1,3,4-oxadiazol-2-yl)-phenol, dissolved in 50 ml of tetrahydrofuran, are added dropwise. 5 g (0.036 mole) of epibromohydrin are then introduced dropwise, 10 ml of hexamethylphosphorotriamide are added to the reaction mixture, and the whole is stirred for 32 hours at room temperature. Thereafter, the reaction mixture is poured into 500 ml of aqueous sodium chloride solution and repeatedly extracted by shaking with diethyl ether. The combined ether extracts are dried over anhydrous sodium sulfate and concentrated on a rotary evaporator to give a yellow oil. This crystallizes on triturating with a toluene/hexane mixture. 5.5 g (66% of theory) of colorless crystals are obtained; melting point 38°-40° C.

reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | ortho-(5-methyl-1,3,4-oxadiazol-2-yl)-phenol | 0.036 mole, 6.3 g | CC1=NN=C(O1)C1=C(C=CC=C1)O | C9H8N2O2
reactant | epibromohydrin | 0.036 mole, 5 g | C(Br)C1CO1 | C3H5BrO
reactant | sodium chloride | 500 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | 10 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 2,3-Epoxypropoxy-2-(5-methyl-1,3,4-oxadiazol-2-yl)-benzene | O1C(COC2=C(C=CC=C2)C=2OC(=NN2)C)C1 | C12H12N2O3
